US07378417B2
7-Difluoromethyl-5-(3-methyl-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(4-methyl-piperazine-1-sulfonyl)-phenyl]-amide
The title compound was prepared from 7-difluoromethyl-5-(3-methyl-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.5) and 3-(4-methyl-piperazine-1-sulfonyl)-phenylamine [CAS 436095-35-1] according to general procedure II. Yellow solid. MS (ISP) 609.3 [(M+H)+]; mp 198° C.

reactant | 7-difluoromethyl-5-(3-methyl-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=NC=2N1N=CC2C(=O)O)C2=CC(=C(C=C2)C(F)(F)F)C)F | C16H10F5N3O2
reactant | 3-(4-methyl-piperazine-1-sulfonyl)-phenylamine | CN1CCN(CC1)S(=O)(=O)C=1C=C(C=CC1)N | C11H17N3O2S
product | 7-Difluoromethyl-5-(3-methyl-4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid[3-(4-methyl-piperazine-1-sulfonyl)-phenyl]-amide | CN1CCN(CC1)S(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2C(F)F)C2=CC(=C(C=C2)C(F)(F)F)C | C27H25F5N6O3S
